US07696200B2
To a solution of tert-butyl 2-chloro-4-nitro-benzoate (2.05 g, 7.98 mmol) in ethanol 12 mL) and ethyl acetate (108 mL) was added platinum on activated charcoal (5%, 295 mg), and the mixture was stirred under at room temperature under a hydrogen atmosphere (1 bar). After filtration through a pad of diatomaceous earth, the filtrate was evaporated to afford tert-butyl 4-amino-2-chlorobenzoate (1.75 g, 96%). Orange solid, MS (EI)=227.2 (M+).

reactant | tert-butyl 2-chloro-4-nitro-benzoate | 7.98 mmol, 2.05 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C11H12ClNO4
reactant | ethyl acetate | 108 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | platinum on activated charcoal | 295 mg | [Pt] | Pt
product | tert-butyl 4-amino-2-chlorobenzoate | 1.75 g, 96% | NC1=CC(=C(C(=O)OC(C)(C)C)C=C1)Cl | C11H14ClNO2
